US06967197B2
To a solution of cyclopropylamine (500 mg) in chloroform (5 ml) were added pyridine (1.04 mg) and a solution of phenyl chloroformate (1.65 g) in chloroform (2 ml) 0° C. and the reaction mixture was stirred at ambient temperature for 0.5 hour. To the mixture was added ethyl acetate and the solution was washed successively with water, a 5% aqueous citric acid solution, a saturated aqueous sodium hydrogen carbonate and brine, dried over anhydrous magnesium sulfate and concentrated in vacuo to give cyclopropylaminocarbonyloxybenzene (1.6 g) as a pale yellow powder.

reactant | cyclopropylamine | 500 mg | C1(CC1)N | C3H7N
reactant | phenyl chloroformate | 1.65 g | ClC(=O)OC1=CC=CC=C1 | C7H5ClO2
reactant | ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | chloroform | 5 ml | C(Cl)(Cl)Cl | CHCl3
solvent | chloroform | 2 ml | C(Cl)(Cl)Cl | CHCl3
catalyst | pyridine | 1.04 mg | N1=CC=CC=C1 | C5H5N
product | cyclopropylaminocarbonyloxybenzene | 1.6 g | C1(CC1)NC(=O)OC1=CC=CC=C1 | C10H11NO2
